US08110570B2
A suspension of 400 mg (1.04 mmol) of 2-benzyloxy-5-(1H-tetrazol-5-yl)benzamide and 500 mg of 10% Pd/C (50% water) in 2 mL of methanol containing 1 mL of 28% aqueous ammonium hydroxide is stirred under hydrogen at 48 psi for 24 hr. The reaction mixture is filtered and the filtrate concentrated to give 210 mg (1.02 mmol, 98% yield) of 2-hydroxy-5-(1H-tetrazol-5-yl)benzamide.

reactant | 2-benzyloxy-5-(1H-tetrazol-5-yl)benzamide | 1.04 mmol, 400 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)C1=NN=NN1 | C15H13N5O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 2-hydroxy-5-(1H-tetrazol-5-yl)benzamide | 1.02 mmol, 210 mg, 98% yield | OC1=C(C(=O)N)C=C(C=C1)C1=NN=NN1 | C8H7N5O2
